US04144047
Preparation of 3-(m-Tolyl)-4,5-Isothiazoledicarboxylic Acid.
Dimethyl 3-(m-tolyl)-4,5-isothiazoledicarboxylate (14.03 g, 0.0548 mol) was hydrolyzed in NaOH (10.96 g, 0.274 mol) and 50 ml H2O for 0.5 hours at reflux. Acidification with HCl, extraction with ether and recrystallization gave a light yellow solid, m.p. 166.5°-167° with decomposition.

reactant | Dimethyl 3-(m-tolyl)-4,5-isothiazoledicarboxylate | 0.0548 mol, 14.03 g | C1(=CC(=CC=C1)C1=NSC(=C1C(=O)OC)C(=O)OC)C | C14H13NO4S
reactant | NaOH | 0.274 mol, 10.96 g | [OH-].[Na+]
solvent | H2O | 50 ml | O | H2O
product | 3-(m-Tolyl)-4,5-Isothiazoledicarboxylic Acid | C1(=CC(=CC=C1)C1=NSC(=C1C(=O)O)C(=O)O)C | C12H9NO4S
